US07842685B2
Reaction of 3-amino-6-(1-phenylcyclopropyl)pyridine-2(1H)-thione (50.0 mg, 206 μmol) and 4-bromo-2-fluorobenzaldehyde (44.0 mg, 217 μmol) according to Reference U and the general procedure for oxidative condensation of 3-aminopyridine-2-thione with aryl aldehydes gave 2-(4-bromo-2-fluorophenyl)-5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine as a light yellow solid. MS (ESI) m/z: Calculated: 424.0; Observed: 424.9 (M++1).

reactant | 3-amino-6-(1-phenylcyclopropyl)pyridine-2(1H)-thione | 206 μmol, 50.0 mg | NC=1C(NC(=CC1)C1(CC1)C1=CC=CC=C1)=S | C14H14N2S
reactant | 4-bromo-2-fluorobenzaldehyde | 217 μmol, 44.0 mg | BrC1=CC(=C(C=O)C=C1)F | C7H4BrFO
reactant | 3-aminopyridine-2-thione | NC=1C(NC=CC1)=S | C5H6N2S
product | 2-(4-bromo-2-fluorophenyl)-5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine | BrC1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)F | C21H14BrFN2S
